US09375010B2
To a solution of (2Z)-(hydroxyimino)(phenyl)acetonitrile (2.5 g, 17.10 mmol, 1 eq.) in 100 ml of acetonitrile and 10 ml DMF was added tert-butyl [6-(chloromethyl)pyridin-2-yl]carbamate (4.15 g, 17.10 mmol, 1 eq.) followed by potassium iodide (283 mg, 1.71 mmol, 0.1 eq.) and caesium carbonate (8.36 g, 25.65 mmol, 1.5 eq.). The reaction was stirred overnight at room temperature. The solvent was then evaporated and the residue dissolved in EtOAc (100 ml). The organic layer was washed with H2O and dried over MgSO4 then concentrated. tert-butyl {6-[({[(Z)-cyano(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate (5.39 g, 80% yield, only 1 oxime isomer) was obtained as a white solid.

reactant | (2Z)-(hydroxyimino)(phenyl)acetonitrile | 17.10 mmol, 2.5 g, 1 eq. | O\N=C(/C#N)\C1=CC=CC=C1 | C8H6N2O
reactant | tert-butyl [6-(chloromethyl)pyridin-2-yl]carbamate | 17.10 mmol, 4.15 g, 1 eq. | ClCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C11H15ClN2O2
reactant | potassium iodide | 1.71 mmol, 283 mg, 0.1 eq. | [I-].[K+]
reactant | caesium carbonate | 25.65 mmol, 8.36 g, 1.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-butyl {6-[({[(Z)-cyano(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate | 80% yield | C(#N)\C(\C1=CC=CC=C1)=N/OCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C19H20N4O3
